US06890947B2
In analogy to the procedure described in example 44, rac-2-but-3-enyloxy-3-(1H-indol-5-yl)-propionic acid methyl ester (preparation 9) was reacted with 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole to give rac-2-but-3-enyloxy-3-{1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic acid as light yellow solid.

reactant | rac-2-but-3-enyloxy-3-(1H-indol-5-yl)-propionic acid methyl ester | COC(C(CC=1C=C2C=CNC2=CC1)OCCC=C)=O | C16H19NO3
reactant | 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
product | rac-2-but-3-enyloxy-3-{1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic acid | C(CC=C)OC(C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C27H25F3N2O4
